US04650810
(i) 2-(4-Hydrazinophenyl)acetamide hydrochloride
To a stirred suspension of 2-(4-aminophenyl)acetamide (19.5 g) in concentrated hydrochloric acid (43 ml) was added an ice cold solution of sodium nitrite (9.43 g) in water (25 ml) at such a rate that the temperature of the mixture remained between -5° and +5° C. When the addition was complete the solution was stirred at 0° C. for 15 min. This was then added to a stirred solution of stannous chloride (146.3 g) in concentrated hydrochloric acid (86 ml) at -10° C. The mixture was stirred for 30 min., poured into ice cold ethanol (750 ml) and the suspension was stirred for a further 30 min. Collection of the solid by filtration and washing with ethanol followed by ether gave the title compound as a white powder (20.6 g). This material was 62% pure but was contaminated with sodium chloride. It was used in the next stage without further purification.

reactant | 2-(4-aminophenyl)acetamide | 19.5 g | NC1=CC=C(C=C1)CC(=O)N | C8H10N2O
reactant | sodium nitrite | 9.43 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 43 ml | Cl | ClH
reactant | hydrochloric acid | 86 ml | Cl | ClH
solvent | water | 25 ml | O | H2O
product | 2-(4-Hydrazinophenyl)acetamide hydrochloride | 20.6 g | Cl.N(N)C1=CC=C(C=C1)CC(=O)N | InChI=1S/C8H11N3O.ClH/c9-8(12)5-6-1-3-7(11-10)4-2-6;/h1-4,11H,5,10H2,(H2,9,12);1H
